US07601722B2
tert-butyl {3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-1-phenylpropyl}methylcarbamate (0.11 g, 0.22 mmol) was treated with an excess of 2N HCl in ether. The precipitated amine salt was collected to give 55 mg of 3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methyl-1-phenylpropan-1-amine.

reactant | tert-butyl {3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-1-phenylpropyl}methylcarbamate | 0.22 mmol, 0.11 g | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCC(C2=CC=CC=C2)N(C(OC(C)(C)C)=O)C)(=O)=O | C27H30FN3O4S
reactant | HCl | 2N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methyl-1-phenylpropan-1-amine | 55 mg | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCC(NC)C2=CC=CC=C2)(=O)=O | C22H22FN3O2S
